US04559344
(a) Production of 6-methyl-3-pyridine aldehyde
80 g (0.37 mole) of sodium periodate in 200 ml of water are added dropwise with vigorous stirring to 23 g (0.19 mole) of 2-methyl-5-vinyl pyridine in 800 ml of ethylene glycol dimethyl ether. 1.0 g (0.04 mole) of osmium tetroxide is then added while cooling with a mixture of ice and common salt, after which the mixture is stirred for 8 hours at room temperature in a nitrogen atmosphere. The oil remaining after removal of the solvent by evaporation in vacuo is taken up in a little water and extracted three times with ethyl acetate. Drying of the organic phase over sodium sulfate and concentration by evaporation in vacuo leave 20 g (87%) of a light brown oil which is immediately further processed.

reactant | sodium periodate | 0.37 mole, 80 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-methyl-5-vinyl pyridine | 0.19 mole, 23 g | CC1=NC=C(C=C1)C=C | C8H9N
solvent | water | 200 ml | O | H2O
solvent | ethylene glycol dimethyl ether | 800 ml | COCCOC | C4H10O2
catalyst | osmium tetroxide | 0.04 mole, 1.0 g | [Os](=O)(=O)(=O)=O
product | 6-methyl-3-pyridine aldehyde | 20 g, 87% | CC1=CC=C(C=N1)C=O | C7H7NO
